US04000286
2,3-Dimethyl-5-nitrobenzofuran (13.4 g.) was hydrogenated in 200 ml. of methanol over 0.6 g. of 5% palladium on carbon. The catalyst was removed by filtration and the filtrate was evaporated to dryness to give 2,3-dimethyl-5-aminobenzofuran, m.p. 77°-78° C.

reactant | 2,3-Dimethyl-5-nitrobenzofuran | 13.4 g | CC=1OC2=C(C1C)C=C(C=C2)[N+](=O)[O-] | C10H9NO3
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 2,3-dimethyl-5-aminobenzofuran | CC=1OC2=C(C1C)C=C(C=C2)N | C10H11NO
